US05055458
A solution of 2-[bis(t-butoxycarbonyl)amino]-9-[2-(t-butyldimethylsilyloxy)-3-(diethoxyphosphorylmethoxy) propoxy]-6-methoxypurine (0.66 g, 0.91 mmol) in 80% acetic acid (25 ml) was stirred at 85° C. for 4 h. The solution was evaporated in vacuo and the residue chromatographed on silica, eluting with chloroformmethanol 25:1, affording 2-amino-9-[3-(diethoxyphosphorylmethoxy)-2-hydroxypropoxy)-6-methoxypurine (275mg, 75%) as a clear gum. νmax (film) 3460, 3340, 1640, 1580, 1460 and 1390 cm-1 ; δH (CDCl3) 1.34 (6H, t, J6.9 Hz, 2×CH3CH2), 3.75 (2H, m, CH2OCH2P), 3 89 (2H, d, J7.7 Hz, CH2P), 4.04 (1H, m, CHOH), 4.09 (3H, s, OCH3), 4.17 (4H, m, 2×CH3CH 2), 4.34 (2H, m, CH2ON), 5.09 (2H, br.s, D2O exchangeable, NH2), 7.78 (1H, s, H-8). Found: C, 40.67; H, 6.18, N, 16.54%; M+ 405.1413. C14H24N5O7P.0.5H2O requires C, 40.58; H, 6.08; N, 16.90%; M+ 405.1413.

reactant | 2-[bis(t-butoxycarbonyl)amino]-9-[2-(t-butyldimethylsilyloxy)-3-(diethoxyphosphorylmethoxy) propoxy]-6-methoxypurine | 0.91 mmol, 0.66 g | C(C)(C)(C)OC(=O)N(C1=NC(=C2N=CN(C2=N1)OCC(COCP(=O)(OCC)OCC)O[Si](C)(C)C(C)(C)C)OC)C(=O)OC(C)(C)C | C30H54N5O11PSi
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 2-amino-9-[3-(diethoxyphosphorylmethoxy)-2-hydroxypropoxy)-6-methoxypurine | 275mg, 75% | NC1=NC(=C2N=CN(C2=N1)OCC(COCP(=O)(OCC)OCC)O)OC | C14H24N5O7P
